US05455348
(3S,5S)-5-[[4-(5-Aminomethyl-2-pyridyl)phenyl]oxymethyl]-3-carboxymethyl-2-pyrrolidinone
Prepared from (3S,5S)-5-[[4-(5-cyano-2-pyridyl)phenyl]oxymethyl]-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone by saponification analogously to Example 13 and subsequent hydrogenation with Raney nickel in methanol/conc. aqueous ammonia.

reactant | (3S,5S)-5-[[4-(5-cyano-2-pyridyl)phenyl]oxymethyl]-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone | C(#N)C=1C=CC(=NC1)C1=CC=C(C=C1)OC[C@@H]1C[C@H](C(N1)=O)CC(=O)OC | C20H19N3O4
reactant | ammonia | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | (3S,5S)-5-[[4-(5-Aminomethyl-2-pyridyl)phenyl]oxymethyl]-3-carboxymethyl-2-pyrrolidinone | NCC=1C=CC(=NC1)C1=CC=C(C=C1)OC[C@@H]1C[C@H](C(N1)=O)CC(=O)O | C19H21N3O4
